US07517875B2
After adding ethanol (1 ml) to 1-(2-amino-phenyl-3-[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-thiourea (11 mg, 0.025 mmol), mercury (II) oxide red (16 mg, 0.074 mmol) and sulfur (0.3 mg, 0.0094 mmol) were added at room temperature, and the mixture was refluxed for 7 hours. The mercury was filtered with celite, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane/dichloromethane/methanol/triethylamine=40/25/20/10/5) to obtain (1H-benzoimidazol-2-yl)-[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-amine. The compound was identified by LC-MS.

reactant | 2-amino-phenyl-3-[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-thiourea | 0.025 mmol, 11 mg | NC1=C(C=CC=C1)NC(=S)NCC1CCN(CC1)CC1=CC(=C(C=C1)Cl)Cl | C20H24Cl2N4S
reactant | sulfur | 0.0094 mmol, 0.3 mg | [S] | S
catalyst | mercury (II) oxide red | 0.074 mmol, 16 mg | O=[Hg]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | (1H-benzoimidazol-2-yl)-[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-amine | N1C(=NC2=C1C=CC=C2)NCC2CCN(CC2)CC2=CC(=C(C=C2)Cl)Cl | C20H22Cl2N4
